US07202364B2
A solution of 5-trifluoromethyl-2-iodophenylacetonitrile (30 g, 96 mmol) in ethanol (100 mL) is stirred at room temperature. Sodium hydroxide (7.7 g, 192 mmol) dissolved in water (60 mL) is added. The mixture is heated to reflux temperature for 12 hours and then cooled to room temperature. Most of the ethanol is removed using a rotary evaporator and the residual aqueous solution adjusted to pH 4 with 3 N HCl. The solid which forms is isolated by filtration and washed with water (250 mL) and then hexanes (500 mL). Air drying gives 5-trifluoromethyl-2-iodophenylacetic acid.

reactant | 5-trifluoromethyl-2-iodophenylacetonitrile | 96 mmol, 30 g | FC(C=1C=CC(=C(C1)CC#N)I)(F)F | C9H5F3IN
reactant | Sodium hydroxide | 192 mmol, 7.7 g | [OH-].[Na+]
reactant | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 60 mL | O | H2O
product | 5-trifluoromethyl-2-iodophenylacetic acid | FC(C=1C=CC(=C(C1)CC(=O)O)I)(F)F | C9H6F3IO2
